US08497273B2
2.2 N-[5-(4-Benzyl-piperazin-1-yl)-pyridin-3-yl]-4-isopropyl-benzenesulfonamide
To a solution of 1-benzyl-4-(5-bromo-pyridin-3-yl)-piperazine (320 mg, 0.88 mmol) in 5 ml trifluoromethylbenzene under an argon atmosphere was added Pd2(dba)3 (40 mg, 0.04 mmol), and tri-tert-butyl-phosphane (27 mg, 0.13 mmol). To a solution of 4-isopropylbenzene sulfonamide (175 mg, 0.88 mol) in 10 ml trifluoromethyl benzene in a separate flask was added sodium hydride (50%, 42 mg, 0.88 mmol) at 50° C. This second solution was added after cooling to room temperature to the first solution. The mixture was heated in a microwave instrument (CEM) at 150° C. for 1 h. After evaporation of the solvent under reduced pressure the mixture was diluted with 50 ml of water and was extracted with 25 ml of ethyl acetate. The combined organic layers were extracted with aqueous HCl solution. The pH of the aqueous solution was adjusted to pH 9 with aqueous NaOH. After extraction with ethyl acetate, the combined organic phases were dried with magnesium sulfate, filtered and the solvent was evaporated under reduced pressure. The so obtained oil was purified via silica gel chromatography with cyclohexane/ethyl acetate (3:7) as eluent, yielding 100 mg of the product.

reactant | 1-benzyl-4-(5-bromo-pyridin-3-yl)-piperazine | 0.88 mmol, 320 mg | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=NC=C(C1)Br | C16H18BrN3
reactant | tri-tert-butyl-phosphane | 0.13 mmol, 27 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 4-isopropylbenzene sulfonamide | 0.88 mol, 175 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)N | C9H13NO2S
reactant | sodium hydride | 0.88 mmol, 42 mg | [H-].[Na+]
solvent | trifluoromethylbenzene | 5 ml | FC(F)(F)C1=CC=CC=C1 | C7H5F3
solvent | trifluoromethyl benzene | 10 ml | FC(F)(F)C1=CC=CC=C1 | C7H5F3
catalyst | Pd2(dba)3 | 0.04 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[5-(4-Benzyl-piperazin-1-yl)-pyridin-3-yl]-4-isopropyl-benzenesulfonamide | 100 mg | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C | C25H30N4O2S
